US08278331B2
Using a procedure analogous to Example A13, 6-(2-chloropyridin-4-yloxy)pyridin-3-amine (6.06 g, 27.3 mmol) and 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (8.53 g, 41.0 mmol) were combined to provide 6-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)pyridin-3-amine (4.67 g, 64% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.3 (m, 1H), 8.2 (s, 1H), 7.98 (s, 1H), 7.65 (s, 1H), 7.3 (s, 1H), 7.25-7.2 (m, 1H), 6.85-6.81 (m, 1H), 6.6-6.55 (m, 1H), 5.3 (s, 2H), 3.8 (s, 3H); MS (ESI) m/z: 268.1 (M+H+).

reactant | 6-(2-chloropyridin-4-yloxy)pyridin-3-amine | 27.3 mmol, 6.06 g | ClC1=NC=CC(=C1)OC1=CC=C(C=N1)N | C10H8ClN3O
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 41.0 mmol, 8.53 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
product | 6-(2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yloxy)pyridin-3-amine | 4.67 g, 64% yield | CN1N=CC(=C1)C1=NC=CC(=C1)OC1=CC=C(C=N1)N | C14H13N5O
